US05093328
To a solution of (2S,4R)-1-benzyloxycarbonyl-2-acetoxymethyl-4-hydroxypyrrolidine (32.59 g) in ethanol (489 ml), 5% palladium-carbon (4.89 g) and 6N hydrochloric acid (18 ml) were added. The mixture was stirred at room temperature for 1 hour under an atmospheric pressure of hydrogen, followed by removal of the catalyst. Removal of the solvent gave (2S,4R)-2-acetoxymethyl-4-hydroxypyrrolidine hydrochloride.

reactant | (2S,4R)-1-benzyloxycarbonyl-2-acetoxymethyl-4-hydroxypyrrolidine | 32.59 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)O)COC(C)=O | C15H19NO5
reactant | hydrochloric acid | 6N, 18 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 489 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 4.89 g | [C].[Pd]
product | (2S,4R)-2-acetoxymethyl-4-hydroxypyrrolidine hydrochloride | Cl.C(C)(=O)OC[C@H]1NC[C@@H](C1)O | InChI=1S/C7H13NO3.ClH/c1-5(9)11-4-6-2-7(10)3-8-6;/h6-8,10H,2-4H2,1H3;1H/t6-,7+;/m0./s1
